US06573218B1
Preparation of 3-(8-Chloro-6-fluoro-3-methyl-2H-1,4-benzoxazin-2-one-5-yl)-1-methyl-6-trifluoromethyl-2,4(1H,3H)-pyrimidindione (Compound no. 3-1)
3-[7-Chloro-5-fluoro-2(3H)benzoxazolinon-4-yl]-1-methyl-6-trifluoromethyl-2,4(1H,3H)-pyrimidinedione (0.50 g) was dissolved in anhydrous toluene (15 ml) and methyl pyruvate (0.15 g) was added. The solution was refluxed with azeotropic removal of water for 2 hours and the solvent was then removed under reduced pressure. The residue was chromatographed on silica gel using hexane-ethyl acetate (3:1) as the eluent to afford the title compound (0.23 g).

reactant | 3-[7-Chloro-5-fluoro-2(3H)benzoxazolinon-4-yl]-1-methyl-6-trifluoromethyl-2,4(1H,3H)-pyrimidinedione | 0.50 g | ClC1=CC(=C(C=2NC(OC21)=O)N2C(N(C(=CC2=O)C(F)(F)F)C)=O)F | C13H6ClF4N3O4
reactant | methyl pyruvate | 0.15 g | C(C(=O)C)(=O)OC | C4H6O3
reactant | water | O | H2O
solvent | toluene | 15 ml | C1(=CC=CC=C1)C | C7H8
product | 3-(8-Chloro-6-fluoro-3-methyl-2H-1,4-benzoxazin-2-one-5-yl)-1-methyl-6-trifluoromethyl-2,4(1H,3H)-pyrimidindione | 0.23 g | ClC1=CC(=C(C=2N=C(C(OC21)=O)C)N2C(N(C(=CC2=O)C(F)(F)F)C)=O)F | C15H8ClF4N3O4
